US07241791B2
Step 5:-4-(7-Chloro-1-propyl-1H-indazole-3-yl)-2-fluorophenyl 3,3-dimethylbutanoate
To a solution of 4-(7-chloro-1-propyl-1H-indazole-3-yl)-2-fluorophenol (0.10 g, 0.33 mmol) in dichloromethane (20 mL) at −78° C. was added diisopropylethylamine (0.70 mL, 0.41 mmol), 3,3-dimethylbutanoyl chloride (0.05 mL, 0.35 mmol) and catalytic amount of 4-(dimethylamino)pyridine. The reaction was stirred at this temperature for 30 minutes. The mixture was diluted with dichloromethane and the organic layer washed with 1n hydrochloric acid solution, water and saturated aqueous sodium chloride solution. After drying over anhydrous magnesium sulfate, the organic phase was filtered and the filtrate evaporated in vacuo to yield crude title compound. The oil was purified by silica gel column chromatography eluting with hexane/ethyl acetate (5/1) to provide the title compound as a white solid (0.11 g, 0.27 mmol, 83%).

reactant | 4-(7-chloro-1-propyl-1H-indazole-3-yl)-2-fluorophenol | 0.33 mmol, 0.10 g | ClC=1C=CC=C2C(=NN(C12)CCC)C1=CC(=C(C=C1)O)F | C16H14ClFN2O
reactant | diisopropylethylamine | 0.41 mmol, 0.70 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3,3-dimethylbutanoyl chloride | 0.35 mmol, 0.05 mL | CC(CC(=O)Cl)(C)C | C6H11ClO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-(7-Chloro-1-propyl-1H-indazole-3-yl)-2-fluorophenyl 3,3-dimethylbutanoate | 0.27 mmol, 0.11 g, 83% | CC(CC(=O)OC1=C(C=C(C=C1)C1=NN(C2=C(C=CC=C12)Cl)CCC)F)(C)C | C22H24ClFN2O2
